US07459448B2
2-(3,4-Dimethoxy-phenylamino)-9-trimethylsilanylethynyl-5H,7H-benzo[b]-pyrimido[4,5-d]azepin-6-one (I-33-a)
To a solution of 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-30) (300 mg, 0.614 mmol) in 4 mL DMF at 22° C. was added dichlorobis(triphenylphosphine)palladium (15 mg, 0.02 mmol), copper iodide (9 mg, 0.05 mmol), and triethylamine (0.34 mL, 2.45 mmol). The solution was degassed with argon, and stirred at 22° C. for 1 h. (Trimethylsilyl)acetylene (120 mg, 1.22 mmol) was added and the solution was stirred at 22° C. for 2 h. Water was added to the reaction mixture, and the resulting precipitate was filtered and purified by silica gel chromatography (ISCO, elution with 30-100% ethyl acetate in hexanes) to give I-33-a (180 mg, 64%): MS m/z═459 (M+H).

reactant | 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | 0.614 mmol, 300 mg | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)I)N1 | C20H17IN4O3
reactant | triethylamine | 2.45 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | (Trimethylsilyl)acetylene | 1.22 mmol, 120 mg | C[Si](C)(C)C#C | C5H10Si
reactant | Water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.02 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.05 mmol, 9 mg | [Cu](I)I
product | 2-(3,4-Dimethoxy-phenylamino)-9-trimethylsilanylethynyl-5H,7H-benzo[b]-pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)C#C[Si](C)(C)C)N1 | C25H26N4O3Si
